US08168642B2
2.0 g (14.6 mmol) methyl formylchloroacetate (A. Gangjee, A. Vidwans, E. Elzein, et. Al. J. Med. Chem. 2001, 44, 1993-2003), and 1.6 g (21.3 mmol) thioacetamide were dissolved in 10 ml water, heated, and reacted at 95° C. for 5 hr. The reaction product was extracted with ethyl acetate for 3 times, the ethyl acetate phases were combined, washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, concentrated, and separated by a column chromatography to obtain 1.0 g methyl 2-methylthiazol-5-carboxylate (yield 43%), 1H NMR (CDCl3) 2.76 (3H, s), 3.89 (3H, s), 8.25 (1H, s).

reactant | methyl formylchloroacetate | 14.6 mmol, 2.0 g | C(=O)C(C(=O)OC)Cl | C4H5ClO3
reactant | thioacetamide | 21.3 mmol, 1.6 g | C(C)(=S)N | C2H5NS
solvent | water | 10 ml | O | H2O
product | methyl 2-methylthiazol-5-carboxylate | 1.0 g, yield 43% | CC=1SC(=CN1)C(=O)OC | C6H7NO2S
